US05994569
13.04 g (63.7 mmol) of (R)-1-Chloro-6-trimethylsilanyl-hex-4yn-2-ol was dissolved in 260 ml of abs. EtOH and hydrogenated, in the presence of 9 drops of quinoline, over 1.70 g of Lindlar catalyst at ambient temperature and 1 atm of H2. The progress of the reaction was followed by GC. After 2 h the reaction mixture was filtered and the solvent removed i.V. Short flash chromatography (SiO2, hexane/AcOEt=85/15) afforded 12.97 g of (Z)-(R)-l-chloro-6-trimethylsilanyl-hex-4-en-2-ol as colorless oil.

reactant | (R)-1-Chloro-6-trimethylsilanyl-hex-4yn-2-ol | 63.7 mmol, 13.04 g | ClC[C@@H](CC#CC[Si](C)(C)C)O | C9H17ClOSi
catalyst | quinoline | 9 drops | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Lindlar catalyst | 1.70 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | EtOH | CCO | C2H6O
product | (Z)-(R)-l-chloro-6-trimethylsilanyl-hex-4-en-2-ol | 12.97 g | ClC[C@@H](C\C=C/C[Si](C)(C)C)O | C9H19ClOSi
